US09216173B2
To a solution of tert-butyl {(1S,2R)-2-[(6-carbamoyl-5-{[5-(dimethylcarbamoyl)-6-methylpyridin-2-yl]amino}pyridin-3-yl)amino]cyclohexyl}carbamate (48 mg, 0.094 mmol) in dichloromethane (1 mL) was added trifluoroacetic acid (0.10 mL, 1.3 mmol). The reaction mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure and purified by reverse phase HPLC to afford 5-{[(1R,2S)-2-aminocyclohexyl]amino}-3-{[5-(dimethylcarbamoyl)-6-methylpyridin-2-yl]amino}pyridine-2-carboxamide. MS ESI calc'd. for C21H30N7O2 [M+H]+ 412. found 412. 1H NMR (500 MHz, DMSO-d6) δ 11.98 (s, 1H), 8.55 (d, J=2.3 Hz, 1H), 7.91 (s, 1H), 7.69 (d, J=2.3 Hz, 1H), 7.45 (d, J=. 8.4 Hz, 1H), 7.33 (s, 1H), 6.67 (d, J=8.4 Hz, 1H), 6.62 (d, J=7.0 Hz, 1), 3.63-3.50 (m, 1H), 3.37-3.27 (m, 1H), 2.99 (s, 3H), 2.82 (s, 3H), 2.34 (s, 3H), 1.88-1.72 (m, 2H), 1.69-1.50 (m, 4H), 1.48-1.31 (m, 2H).

reactant | tert-butyl {(1S,2R)-2-[(6-carbamoyl-5-{[5-(dimethylcarbamoyl)-6-methylpyridin-2-yl]amino}pyridin-3-yl)amino]cyclohexyl}carbamate | 0.094 mmol, 48 mg | C(N)(=O)C1=C(C=C(C=N1)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O)NC1=NC(=C(C=C1)C(N(C)C)=O)C | C26H37N7O4
reactant | trifluoroacetic acid | 1.3 mmol, 0.10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 5-{[(1R,2S)-2-aminocyclohexyl]amino}-3-{[5-(dimethylcarbamoyl)-6-methylpyridin-2-yl]amino}pyridine-2-carboxamide | N[C@@H]1[C@@H](CCCC1)NC=1C=C(C(=NC1)C(=O)N)NC1=NC(=C(C=C1)C(N(C)C)=O)C | C21H29N7O2
